US09359362B2
(7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carboxamide
The reaction was carried out under argon. (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylic acid (62 mg, 145 μmol) and ammonium chloride (116.7 mg, 2.2 mmol, 15 eq.) were initially charged in dry DMF (3.5 ml) at 0° C., and HATU (415 mg, 1.8 mmol, 7.5 eq.) and triethylamine (147 mg, 1.45 mmol, 10 eq.) were added. The mixture was stirred for 12 h, during which time it gradually warmed to RT. The reaction mixture was then concentrated, and the residue was taken up in acetonitrile (with 0.1% TFA) and then purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless amorphous solid (36 mg, 58% of theory).

reactant | (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]pyrimidine-6-carboxylic acid | 145 μmol, 62 mg | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)O | C20H13F3N6O2
reactant | ammonium chloride | 2.2 mmol, 116.7 mg, 15 eq. | [Cl-].[NH4+]
reactant | HATU | 1.8 mmol, 415 mg, 7.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.45 mmol, 147 mg, 10 eq. | C(C)N(CC)CC | C6H15N
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | (7R)-7-(4-Cyanophenyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydrotetrazolo[1,5-a]-pyrimidine-6-carboxamide | C(#N)C1=CC=C(C=C1)[C@@H]1C(=C(N(C=2N1N=NN2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)N | C20H14F3N7O
